US09290440B2
Methyl 3-mercaptobenzoate
3-Mercaptobenzoic acid (10.0 g) was suspended in methanol (310 mL), added with sulfuric acid (0.3 mL), and stirred for 24 hours under reflux with heating. After cooling to room temperature, the solvent was evaporated under reduced pressure and water was added to residues. After adjusting to pH 8 by using a saturated aqueous solution of sodium hydrogen carbonate, it was extracted with ethyl acetate and dried over anhydrous sodium sulfate. After distilling the solvent under reduced pressure, the residues were purified by silica gel column chromatography (10% ethyl acetate/hexane) to obtain the title compound as a colorless oil.

reactant | 3-Mercaptobenzoic acid | 10.0 g | SC=1C=C(C(=O)O)C=CC1 | C7H6O2S
reactant | sulfuric acid | 0.3 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 310 mL | CO | CH4O
product | Methyl 3-mercaptobenzoate | SC=1C=C(C(=O)OC)C=CC1 | C8H8O2S
